US04283403
3-(4-bromophenyl)-5-isothiocyanatomethyl-2-isoxazoline
A 10 g. portion of 4-bromobenzaldoxime was chlorinated and reacted with 10 g. of allylisothiocyanate to prepare 15 g. of product, m.p. 123°-125°.

reactant | 4-bromobenzaldoxime | BrC1=CC=C(C=NO)C=C1 | C7H6BrNO
reactant | allylisothiocyanate | C(C=C)N=C=S | C4H5NS
product | 3-(4-bromophenyl)-5-isothiocyanatomethyl-2-isoxazoline | BrC1=CC=C(C=C1)C1=NOC(C1)CN=C=S | C11H9BrN2OS
